// Generated for: spectre
// Generated on: May 16 10:59:06 2022
// Design library name: CNT_CMOS
// Design cell name: OR2X1
// Design view name: schematic
simulator lang=spectre
//global 0 VDD VSS
//include "/simulation/tianliang/test/gpdk045_v_6_0/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: CNT_CMOS
// Cell name: OR2X1
// View name: schematic
subckt OR2X1 VSS VDD A B Y
mp2 (Y n0 VDD) CNT_CDF l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=-0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=-1
mp0 (n1 A VDD) CNT_CDF l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=-0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=-1
mp1 (n0 B n1) CNT_CDF l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=-0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=-1
mn2 (VSS n0 Y) CNT_CDF_N l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=1
mn0 (VSS A n0) CNT_CDF_N l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=1
mn1 (VSS B n0) CNT_CDF_N l=0.6 w=5 MU=55 COX=150e-09 COL=0 CGSD=0 COLGSD=0 CSD=0 VTO=0.7 FLG_SPLT=1 FINGER=1 sdW=10 gsdEnc=1 gcntEnc=3 TEMP=300 LAMBDA=0.005 VSS=0.074 GAMMA=0.35 IOFF=0 MM=1.65 AA=1 SLOPE=10 VAA=1 RCS=1450 RCD=1450 FLG_FLD=0 RFS=1 RFD=1 RFG=1 typep=1
ends OR2X1